US06639107B1
Preparation of (+,−) Cis-propane-2-sulfonic Acid (2-p-bromophenyl-cyclopentyl)-amide
A 100 mL round bottom flask equipped with a magnetic stirrer was charged with (+,−) cis-[2-(4-bromo-phenyl)-cyclopentylamine oxalate salt (500 mg, 1.51 mmol), methylene chloride (5.0 mL) and the solution was cooled to 0° C. DBU (1.8 mL, 12.1 mmol) and isopropylsulfonyl chloride (1.02 mL, 9.06 mmol) were added. The reaction was then stirred at 0° C. for 60.0 minutes and brought to room temperature with stirring overnight. The reaction was diluted with methylene chloride and washed with 1N HCl, brine and the organic layer dried over sodium sulfate. The title compound was purified by radial chromatography eluting with methylene chloride to give 233 mg (45%) of the purified title compound. The nmr was consistent with the assigned structure.

reactant | 2-(4-bromo-phenyl)-cyclopentylamine oxalate salt | 1.51 mmol, 500 mg | C(C(=O)O)(=O)O.BrC1=CC=C(C=C1)C1C(CCC1)N
reactant | DBU | 12.1 mmol, 1.8 mL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | isopropylsulfonyl chloride | 9.06 mmol, 1.02 mL | C(C)(C)S(=O)(=O)Cl | C3H7ClO2S
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5.0 mL | C(Cl)Cl | CH2Cl2
product | (+,−) Cis-propane-2-sulfonic Acid (2-p-bromophenyl-cyclopentyl)-amide | BrC1=CC=C(C=C1)[C@@H]1[C@@H](CCC1)NS(=O)(=O)C(C)C | C14H20BrNO2S
